US05432164
2-Chloro-N-(4-phenyl-1,2,3,6-tetrahydro-1-pyridinyl)adenosine
The title compound was prepared according to method A as described above by reacting crude 1-amino-4-phenyl-1,2,3,6-tetrahydropyridine (prepared by the procedure outlined in Example 6) (1.25 g) with 9-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (2.50 g, 3.9 mmol), followed by debenzoylation of the purified product using methanolic ammonia to provide the title 2-Chloro-N-(4-phenyl-1,2,3,6-tetrahydro-1-pyridinyl)adenosine (0.20 g 12%) (after column chromatography) as a foam, 1H NMR (DMSO-d6) δ3.53-3.70 (4H, m, H-5'a, H-5'b and --CH2 --), 3.94 (1H, q, H-4'), 4.14 (1H, q, H-3'), 4.52 (1H, q, H-2'), 5.07 (1H, t, 5'-OH), 5.22, 5.50 (2H, 2d, 2'- and 3'-OH), 5.85 (1H, d, H-1' ), 6.15 (1H, br s, vinylic C-H), 7.24-7.51 (5H, m, Ar-H), 8.43 (1H, s, H-8), 9.55 (1H, s, N-H).

reactant | 1-amino-4-phenyl-1,2,3,6-tetrahydropyridine | NN1CCC(=CC1)C1=CC=CC=C1 | C11H14N2
reactant | 9-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 3.9 mmol, 2.50 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | ammonia | N | H3N
product | 2-Chloro-N-(4-phenyl-1,2,3,6-tetrahydro-1-pyridinyl)adenosine | 0.20 g, 12% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NN1CCC(=CC1)C1=CC=CC=C1 | C21H23ClN6O4
